US05252538
Preparation of diethyl 2-methyl-imidazo[4,5-b]pyridine-5,6-dicarboxylate
Diethyl 5,6-diamino-2,3-pyridinedicarboxylate (10.38 g, 0.041 mol) is stirred under an N2 atmosphere in 100 mL glacial acetic acid, to give a clear orange solution. Triethylorthoacetate (TEOA), (0.19 mol) is then added and the mixture is heated to reflux for 15 hours. The cooled solution is poured into ice water and neutralized with ammonium hydroxide. The solution is extracted with ethyl acetate, the combined organic layers washed with brine, dried over Na2SO4, filtered and concentrated to an oil. The oil is taken up in ethyl acetate and the desired product is precipitated by the addition of hexanes in two crops of beige solid, totalling 8.11 g (71.3%), having a melting point of 164°-165° C.

reactant | Diethyl 5,6-diamino-2,3-pyridinedicarboxylate | 0.041 mol, 10.38 g | NC=1C=C(C(=NC1N)C(=O)OCC)C(=O)OCC | C11H15N3O4
reactant | Triethylorthoacetate | 0.19 mol | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | diethyl 2-methyl-imidazo[4,5-b]pyridine-5,6-dicarboxylate | CC1=NC=2C(NC(=C(C2)C(=O)OCC)C(=O)OCC)=N1 | C13H15N3O4
